US09328067B2
Methyl 2-(((2-(benzofuran-2-sulfonamido)-4-chlorophenyl)thio)methyl)benzoate
Following General Procedure B, the title compound (277 mg, 58%) was prepared from methyl 2-(((2-amino-4-chlorophenyl)thio)methyl)benzoate (300 mg, 0.98 mmol) and benzofuran-2-sulfonyl chloride (211 mg, 0.98 mmol) in pyridine (3 ml).

reactant | methyl 2-(((2-amino-4-chlorophenyl)thio)methyl)benzoate | 0.98 mmol, 300 mg | NC1=C(C=CC(=C1)Cl)SCC1=C(C(=O)OC)C=CC=C1 | C15H14ClNO2S
reactant | benzofuran-2-sulfonyl chloride | 0.98 mmol, 211 mg | O1C(=CC2=C1C=CC=C2)S(=O)(=O)Cl | C8H5ClO3S
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
product | Methyl 2-(((2-(benzofuran-2-sulfonamido)-4-chlorophenyl)thio)methyl)benzoate | 277 mg, 58% | O1C(=CC2=C1C=CC=C2)S(=O)(=O)NC2=C(C=CC(=C2)Cl)SCC2=C(C(=O)OC)C=CC=C2 | C23H18ClNO5S2
